US05695684
To a solution 0.8 g of 6-decyl-2-(4-hydroxyphenyl)quinoline and 170 mg potassium hydroxide in i2 ml of butanol, 0.5 g of pentyl bromide was added, followed by heat refluxing for 4 hours. After the reaction, the reaction mixture was poured into water and subjected to extraction with toluene. The organic layer was washed with water, dried with anhydrous sodium sulfate and subjected to distilling-off of the solvent, followed by purification by silica gel column chromatography and recrystallization to obtain 0.8 g of 6-decyl-2-(4-pentyloxyphenyl)quinoline. This compound showed the following phase transition series.

reactant | 6-decyl-2-(4-hydroxyphenyl)quinoline | 0.8 g | C(CCCCCCCCC)C=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)O | C25H31NO
reactant | potassium hydroxide | 170 mg | [OH-].[K+]
reactant | butanol | C(CCC)O | C4H10O
reactant | pentyl bromide | 0.5 g | C(CCCC)Br | C5H11Br
solvent | water | O | H2O
product | 6-decyl-2-(4-pentyloxyphenyl)quinoline | 0.8 g | C(CCCCCCCCC)C=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)OCCCCC | C30H41NO
